US07312236B2
1-(3-Bromo-2-fluoro-phenyl)-4-dimethylamino-cyclohexanol
Add n-BuLi (20.2 mL, 1.6M in hexanes, 32.3 mmol) into a solution of 2,2,6,6-tetramethyl-piperidine (4.56 g, 32.6 mmol) in hexanes (30 mL) at −78° C. Add 1-bromo-2-fluoro-benzene (4.71 g, 26.9 mmol) and stir for 1 hr. Slowly add 4-dimethylamino-cyclohexanone (3.80 mL) in hexanes (30 mL) and stir for 1 hr. Remove the cooling bath and stir for two more hours. Partition the reaction mixture between saturated aqueous NaCl and ethyl acetate, dry the organic phase with anhydrous sodium sulfate, evaporate the solvent, and purify the residue by chromatography on a silica gel column (DCM: 2M NH3 in MeOH, gradient) to give the title compound (2.04 g): MS (ES): m/z=318 (M+H)+ and 316 (M−H)−. 1HNMR (CDCl3): δ 7.43 (m, 2H), 6.98 (m, 1H), 2.45 (m, 2H), 2.21 (s, 6H), 2.13 (m, 1H), 1.92 (m, 2H), 1.64 (m, 4H).

reactant | n-BuLi | 32.3 mmol, 1.6M, 20.2 mL | [Li]CCCC
reactant | 2,2,6,6-tetramethyl-piperidine | 32.6 mmol, 4.56 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 1-bromo-2-fluoro-benzene | 26.9 mmol, 4.71 g | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | 4-dimethylamino-cyclohexanone | 3.80 mL | CN(C1CCC(CC1)=O)C | C8H15NO
product | 1-(3-Bromo-2-fluoro-phenyl)-4-dimethylamino-cyclohexanol | 2.04 g | BrC=1C(=C(C=CC1)C1(CCC(CC1)N(C)C)O)F | C14H19BrFNO
